US07745438B2
(2R,5R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester
Stir (2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester (0.1 g, 0.14 mmol) and 20% palladium hydroxide on carbon (0.1 g, 0.06 mmol, 60% moisture) in ethyl acetate (5 mL) under 1 atmosphere of hydrogen gas at room temperature overnight. Filter the suspension through a pad of filtering agent, wash with ethyl acetate and concentrate to give the title compound (0.06 g, 90%).

reactant | (2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 0.14 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)OCC(C)(C)C | C44H54F2N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide on carbon | 0.06 mmol, 0.1 g | [OH-].[OH-].[Pd+2]
product | (2R,5R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 0.06 g, 90% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)OCC(C)(C)C | C23H36F2N2O5
